US07846959B2
To a solution of 2-[(3-oxo-1,2,3,4-tetrahydroquinoxalin-6-yl)carbonyl]benzoic acid (50 mg, 0.16 mmol) in N,N-dimethylformamide (2.0 mL), HOAt (40 mg, 0.28 mmol), HATU (90 mg, 0.23 mmol) and NMM (0.1 mL, 0.80 mmol) was added and the reaction mixture was stirred for 20 minutes at room temperature, followed by the addition of 3-chloro-aniline (24 μL, 0.23 mmol). The reaction mixture was stirred for 15 hours at room temperature. The solvent was evaporated and the resulting crude was purified by reverse phase preparative HPLC (CH3CN/H2O with 0.1% TFA). The fractions were collected and the aqueous solution was lyophilized to give 7-[2-(3-chlorophenyl)-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-3,4-dihydroquinoxalin-2(1H)-one (36 mg, 39% yield). 1H NMR (400 MHz, DMSO-d6): 12.25 (s, 1H), 10.44 (s, 1H), 8.04 (d, 1H), 7.78 (t, 1H), 7.59 (d, 1H), 7.47 (m, 2H), 7.43 (dd, 1H), 7.33 (m, 3H), 7.08 (m, 3H), 4.22 (s, 2H); MS (EI) for C22H16ClN3O3: 406 (MH+).

reactant | 2-[(3-oxo-1,2,3,4-tetrahydroquinoxalin-6-yl)carbonyl]benzoic acid | 0.16 mmol, 50 mg | O=C1CNC2=CC=C(C=C2N1)C(=O)C1=C(C(=O)O)C=CC=C1 | C16H12N2O4
reactant | HOAt | 0.28 mmol, 40 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 0.23 mmol, 90 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 0.80 mmol, 0.1 mL | CN1CCOCC1 | C5H11NO
reactant | 3-chloro-aniline | 0.23 mmol, 24 μL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 7-[2-(3-chlorophenyl)-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl]-3,4-dihydroquinoxalin-2(1H)-one | 36 mg, 39% yield | ClC=1C=C(C=CC1)N1C(C2=CC=CC=C2C1=O)(O)C1=CC=C2NCC(NC2=C1)=O | C22H16ClN3O3
